US07259183B2
Preparation of 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-phenylamino-ethyl)-amide 103
489 mg (2.5 mol) of 5-chloro-1H-indole-7-carboxylic acid, 706 mg (2.5 mmol) of N-(4-tert-butyl-benzyl)-N′-phenyl-ethane-1,2-diamine and 541 mg (2.75 mmol) of EDC.HCl were dissolved in 20 ml DCM. The reaction mixture was stirred at rt over night. The solvent was evaporated and the residue was dissolved in diethyl ether. The organic layer was washed with 1N aqueous HCl solution, once with 1N aqueous NaOH solution and once with saturated aqueous NaCl solution, dried over sodium sulfate, filtered and the solvent was evaporated. The residue was purified by column chromatography (silica gel; diethyl ether/heptane 1:1) to yield 460 mg (40%) product as a white solid. MS (ISP) 460.3 (M+H)+.

reactant | 5-chloro-1H-indole-7-carboxylic acid | 2.5 mol, 489 mg | ClC=1C=C2C=CNC2=C(C1)C(=O)O | C9H6ClNO2
reactant | N-(4-tert-butyl-benzyl)-N′-phenyl-ethane-1,2-diamine | 2.5 mmol, 706 mg | C(C)(C)(C)C1=CC=C(CNCCNC2=CC=CC=C2)C=C1 | C19H26N2
reactant | EDC.HCl | 2.75 mmol, 541 mg | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-Chloro-1H-indole-7-carboxylic acid (4-tert-butyl-benzyl)-(2-phenylamino-ethyl)-amide | 460 mg, 40% | C(C)(C)(C)C1=CC=C(CN(C(=O)C=2C=C(C=C3C=CNC23)Cl)CCNC2=CC=CC=C2)C=C1 | C28H30ClN3O
